### PR TITLE
[Merged by Bors] - feat(Quantale): `⊥ * x = ⊥`

### PR DESCRIPTION
**Pull request by PieterCuijpers**
The bottom element of a quantale is absorbing for multiplication

As this is a basic truth for quantales that one practically always will use, I think it belongs in the main Quantale file.

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Algebra/Order/Quantale.lean [hunk 1]
```diff
@@ -176,4 +176,26 @@ theorem rightMulResiduation_le_iff_mul_le : x ≤ y ⇨ᵣ z ↔ y * x ≤ z whe
...
+  rw [← sSup_empty, sSup_mul_distrib]
+  simp only [Set.mem_empty_iff_false, not_false_eq_true, iSup_neg, iSup_bot, sSup_empty]
+
+@[to_additive (attr := simp)]
+theorem mul_bot : x * ⊥ = ⊥ := by
+  rw [← sSup_empty, mul_sSup_distrib]
+  simp only [Set.mem_empty_iff_false, not_false_eq_true, iSup_neg, iSup_bot, sSup_empty]
+
+instance : MulZeroClass α where
+  zero := ⊥
```
Comment (YaelDillies) [inline Mathlib/Algebra/Order/Quantale.lean:195]: This instance is dangerous since it creates data (`Zero`) out of a Prop (`IsQuantale`). You will need to assume that `⊥ = 0` (@vihdzp, did you have a mixin for that?) instead of making it defeq

Comment (PieterCuijpers) [reply Mathlib/Algebra/Order/Quantale.lean]: I'll remove it for the time being.

After all, there is no to_additive counterpart - and it makes sense to me to only have the theorems that work for both Mul and Add variants. I think of them as bot_mul and mul_bot anyway.

**Review by YaelDillies — APPROVED** [review]
Thanks! 🚀

maintainer merge

**Review by jcommelin — COMMENTED** [review]
Thanks :tada:

bors merge
